US06699995B1
Methyl 4-(3,4-dichlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionate
A mixture of methyl 2-chloro-4-(3,4-dichlorophenyl)-5-oxazolepropionate (1.00 g), 2-methylimidazole (0.82 g), potassium carbonate (0.69 g) and N,N-dimethylformamide (20 mL) was stirred at 120° C. for 1 h. The reaction mixture was poured into iced water (100 mL) and the precipitated crystals were collected by filtration, washed with water and then with isopropyl ether and air-dried to give the title compound as crystals. Recrystallization from ethyl acetate-isopropyl ether gave pale-yellow prism crystals (0.82 g, 72%). melting point: 116-117° C.

reactant | methyl 2-chloro-4-(3,4-dichlorophenyl)-5-oxazolepropionate | 1.00 g | ClC=1OC(=C(N1)C1=CC(=C(C=C1)Cl)Cl)CCC(=O)OC | C13H10Cl3NO3
reactant | 2-methylimidazole | 0.82 g | CC=1NC=CN1 | C4H6N2
reactant | potassium carbonate | 0.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | Methyl 4-(3,4-dichlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionate | ClC=1C=C(C=CC1Cl)C=1N=C(OC1CCC(=O)OC)N1C(=NC=C1)C | C17H15Cl2N3O3
